US05151442
Trans-6-cyano-2,2-dimethyl-3-hydroxy-4-(2-trifluoromethylbenzene-1-sulfonamido)chroman (SR 44665)
A mixture of 1 g of 4-amino-6-cyano-2,2-dimethyl-3-hydroxychroman and 1 g of 2-trifluoromethylbenzenesulfonyl chloride in 25 ml of pyridine is stirred at room temperature for 18 hours.

reactant | 4-amino-6-cyano-2,2-dimethyl-3-hydroxychroman | 1 g | NC1C(C(OC2=CC=C(C=C12)C#N)(C)C)O | C12H14N2O2
reactant | 2-trifluoromethylbenzenesulfonyl chloride | 1 g | FC(C1=C(C=CC=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | Trans-6-cyano-2,2-dimethyl-3-hydroxy-4-(2-trifluoromethylbenzene-1-sulfonamido)chroman | C(#N)C=1C=C2[C@H]([C@@H](C(OC2=CC1)(C)C)O)NS(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C19H17F3N2O4S
